US06566372B1
Scheme VIII describes the synthesis of 6-alkylaminocoumarins, as demonstrated by Structure 45, from phenol through a similar route as that described in Schemes I and II. A mixture of a phenol compound and a 3-ketoester such as ethyl 4,4,4-trifluoroacetoacetate are heated in refluxing toluene in the presence of TsOH to afford a coumarin compound e.g., Structure 43. Nitration of coumarin compounds (e.g., Structure 43) followed by hydrogenation give aminocoumarin compounds such as Structure 44. Sequential reductive alkylation provides dialkylamino-coumarin compounds as shown in Structure 45. Hydrogenation of a dialkylamino-coumarin compound (e.g., Structure 45) affords compounds Structure 46.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | ethyl 4,4,4-trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
